datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]#[C:3][C:4]([H:8])([H:9])[H:10])[H:7])([H:5])[H:6].[C:11](=[C:12][C:13]([H:16])([H:17])[H:18])([H:14])[H:15]>>[C:0](=[C:1]([C:2]=[C:3]([C:4]([H:8])([H:9])[H:10])[C:12](=[C:11]([H:14])[H:15])[C:13]([H:16])([H:17])[H:18])[H:7])([H:5])[H:6],8.11696
[C:0](=[C:1]([C:2]#[C:3][H:6])[H:5])[H:4].[H:7]>>[C:0](=[C:1]([C:2]#[C:3][H:6])[H:5])([H:4])[H:7],54.68488
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])[H:8])[H:7])([H:5])[H:6].[C:12]([C:13](=[C:14]([c:15]1[c:16]([H:31])[c:17]([H:32])[c:18]([H:33])[c:19]([H:34])[c:20]1[H:35])[H:30])[c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])([H:27])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:10])[H:11])[H:9])([H:8])[C:14]([C:13]([C:12]([H:27])([H:28])[H:29])[c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])([c:15]1[c:16]([H:31])[c:17]([H:32])[c:18]([H:33])[c:19]([H:34])[c:20]1[H:35])[H:30])[H:7])([H:5])[H:6],74.7262
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[S:10]=[C:11]([S:12][H:14])[H:13]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[H:13])([H:3])([H:4])[H:5].[S:10]=[C:11][S:12][H:14],80.7094
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([S:12][H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[S:12][C:11]([H:13])([H:14])[H:15])[H:6])([H:4])[H:5].[H:16],118.407
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9]([C:10](=[S:11])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:9]([C:10](=[S:11])[H:14])([H:12])[H:13],38.0744
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([C:8]([S:9][H:15])[C:10](=[S:11])[H:16])([H:12])([H:13])[H:14]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:8]([C:7]([H:12])([H:13])[H:14])([S:9][H:15])[C:10](=[S:11])[H:16],159.327
[C:0]([C:1]([C:2]([C:3]([C:4](=[C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])[H:16])([H:14])[H:15])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C:0]([C:1]1([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])([H:15])[C:4]1([C:5]([C:6]([H:17])([H:18])[H:19])[C:7]([H:20])([H:21])[H:22])[H:16])([H:8])([H:9])[H:10],70.333
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:7])[H:8].[O:18][O:19]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([H:12])([H:13])[H:14])[C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:7])([H:8])[O:18][O:19],0.8313608
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[S:7]([C:8]([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])[H:16])[H:15]>>[C:0]([C:1](=[S:2])[H:6])([H:4])[H:5].[H:3][C:8]([S:7][H:15])([c:9]1[c:10]([H:17])[c:11]([H:18])[c:12]([H:19])[c:13]([H:20])[c:14]1[H:21])[H:16],71.9648
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11](=[C:12][S:13][H:16])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[S:4][H:10])[H:5].[H:6][C:12](=[C:11]([H:14])[H:15])[S:13][H:16],-47.2792
[C:0]([C:1]([C:2]([O:3][O:4][H:14])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:13])[H:12])([H:9])([H:10])[H:11].[O:3][O:4][H:14],62.902256
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[S:11][H:18])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:9]([C:8]([H:12])([H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[S:11][H:18],35.1456
[C:0](=[C:1]([O:2][O:3][C:4]([H:12])([H:13])[H:14])[C:5](=[C:6]([H:15])[H:16])[C:7]([C:8]([H:17])([H:18])[H:19])[C:9]([H:20])([H:21])[H:22])([H:10])[H:11]>>[C:0](=[C:1]1[O:2][C:7]([C:8]([H:17])([H:18])[H:19])([C:9]([H:20])([H:21])[H:22])[C:5]1=[C:6]([H:15])[H:16])([H:10])[H:11].[O:3][C:4]([H:12])([H:13])[H:14],89.9403
[C:0](=[C:1]=[C:2]=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:10])[H:11].[H:18]>>[C:0]([C:1](=[C:2]=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:18])([H:10])[H:11],22.359296
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])[C:4](=[C:5]([C:6]([C:7]([C:8]([H:21])([H:22])[H:23])=[C:9]([C:10]([H:25])([H:26])[H:27])[H:24])([H:19])[H:20])[H:18])[H:17])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([C:2]1([C:3]([H:14])([H:15])[H:16])[C:4]([H:17])=[C:5]([H:18])[C:6]([H:19])([H:20])[C:7]([C:8]([H:21])([H:22])[H:23])[C:9]1([C:10]([H:25])([H:26])[H:27])[H:24])[H:13])([H:11])[H:12],130.332
[C:0](#[C:1][C:2]([C:3]#[C:4][H:10])=[C:5]([C:6]([H:11])([H:12])[H:13])[C:7](=[C:8]([H:15])[H:16])[H:14])[H:9].[H:17]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:10])([C:5]([C:6]([H:11])([H:12])[H:13])[C:7](=[C:8]([H:15])[H:16])[H:14])[H:17])[H:9],13.3051
[C:0]1([H:10])=[C:1]([H:11])[C:2](=[C:3]2[C:4]([H:12])=[C:5]([H:13])[C:6]([H:14])=[C:7]2[H:15])[C:8]([H:16])=[C:9]1[H:17].[H:18]>>[C:0]1([H:10])([H:18])[C:1]([H:11])[C:2](=[C:3]2[C:4]([H:12])=[C:5]([H:13])[C:6]([H:14])=[C:7]2[H:15])[C:8]([H:16])=[C:9]1[H:17],1.2552
